US09376422B2
Compound 394: 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-{[6-methyl-2-oxo-4-(propan-2-yl)-1,2-dihydropyridin-3-yl]methyl}-5-(trifluoromethyl)benzamide
To a stirred solution of 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid (crude material, ˜0.313 mmol) and 3-(aminomethyl)-6-methyl-4-(propan-2-yl)-1,2-dihydropyridin-2-one HCl salt (88.0 mg, 0.407 mmol) in DMSO (2.4 mL) was added PyBOP (244 mg, 0.470 mmol) and hunig base (164 ul, 0.939 mmol). The reaction mixture was stirred at rt for 16 hours. The reaction mixture was quenched with water and diluted with ethylacetate. The aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography (NH—SiO2 ethylacetate/MeOH=20/1+5% triethylamine). The crude compound was dissolved with DMSO, diluted with water. The precipitated solid was collected and triturated with ethylacetate/TBME/hexane to give the titled compound as a white solid (80.0 mg, 51% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.31 (s, 1H), 7.26 (s, 1H), 7.03-7.10 (m, 1H), 6.04 (s, 1H), 4.59 (d, J=6.0 Hz, 2H), 3.49-3.55 (m, 1H), 3.09 (q, J=6.8 Hz, 2H), 2.81-2.84 (m, 2H), 2.70-2.78 (m, 1H), 2.32 (s, 3H), 2.26 (s, 3H), 2.24 (s, 3H), 1.86-1.89 (m, 2H), 1.68-1.71 (m, 4H), 1.22 (d, J=6.4 Hz, 6H), 0.84 (t, J=6.8 Hz, 3H); MS (ES) [M+H] 507.2, [M+Na] 529.2; HPLC 97.7% purity.

reactant | 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid | ˜0.313 mmol | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C17H23F3N2O2
reactant | 3-(aminomethyl)-6-methyl-4-(propan-2-yl)-1,2-dihydropyridin-2-one HCl salt | 0.407 mmol, 88.0 mg | Cl.NCC=1C(NC(=CC1C(C)C)C)=O
reactant | PyBOP | 0.470 mmol, 244 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hunig base | 0.939 mmol, 164 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2.4 mL | CS(=O)C | C2H6OS
product | 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-{[6-methyl-2-oxo-4-(propan-2-yl)-1,2-dihydropyridin-3-yl]methyl}-5-(trifluoromethyl)benzamide | 80.0 mg, 51% yield | C(C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C(C)C)C)=O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C27H37F3N4O2
